US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and treated with 2-(4-bromobutoxy)naphthlene (1.12 g). The mixture was stirred and heated under argon at 60° C. overnight and worked up as in Example 20. The material from dichloromethane extraction was crystallized from dichloromethane-diethyl ether to provide 1.1 g of 4-[[4-(2-naphthalenyloxy)butyl]oxy]-alpha-oxobenzeneacetic acid methyl ester, mp 93°-95° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | 2-(4-bromobutoxy)naphthlene | 1.12 g | BrCCCCOC1=CC2=CC=CC=C2C=C1 | C14H15BrO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[[4-(2-naphthalenyloxy)butyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 1.1 g | COC(C(C1=CC=C(C=C1)OCCCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C23H22O5
